US06268072B1
Synthesis of adamantane-1,3-diphenyl-2,2-dimethyltrimethylene diboronate (compound 15)
The above crude diboronic acid and 2,2-dimcthylporpane-1,3-diol (neopentyl glycol) (10.4 g, 0.1 mol) were dissolved in 300 mL of toluene and heated under vigorous reflux with a Dean-Stark trap overnight. After the completion of the reaction, toluene was evaporated and the crude product was recrystallized from toluene to give 7.10 g of product as white solid. 1H NMR (CDCl3) δ (ppm): 1.00 (s, 12H, CH3), 1.78 (s, 2H), 1.96 (s, 8H), 2.05 (s,2H) 2.30 (s, 2H), 3.74 (s, 4H, CH2), 7.37 (d, J=8.1 Hz, 4H, aromatic), 7.75 (d, J=8.1 Hz, 4H, aromatic); 13C NMR (CDCl3): 21.91, 29.60, 31.87, 35.97, 37.46, 42.23, 48.59, 72.28, 124.17, 128.16, 133.87, 153.21. M.p. 249-251° C.; FD-MS: m/z 512 (M+).

reactant | diboronic acid | B(O)OBO | B2H4O3
reactant | toluene | 300 mL | C1(=CC=CC=C1)C | C7H8
product | adamantane 1,3-diphenyl-2,2-dimethyltrimethylene diboronate | 7.10 g | C12CC3CC(CC(C1)C3)C2.B1OC(C(C(C2=CC=CC=C2)OBO1)(C)C)C1=CC=CC=C1 | InChI=1S/C17H20B2O3.C10H16/c1-17(2)15(13-9-5-3-6-10-13)20-18-22-19-21-16(17)14-11-7-4-8-12-14;1-7-2-9-4-8(1)5-10(3-7)6-9/h3-12,15-16,18-19H,1-2H3;7-10H,1-6H2
